US06916819B2
TMSCN (1.1 ml, 8.33 mmol) and dimethyl amino carbamoyl chloride (0.76 mL, 8.33 mmoL) are added to a solution of 3-ethylamino-4-nitro-pyridine-1-oxide (1 g, 6.94 mmol) in anhydrous DMF (10 mL) were added. The reaction mixture is stirred overnight at 80° C., cooled to room temperature, and diluted with CH2Cl2 and water. The combined organic layer is washed with water, brine, dried over Na2SO4, and concentrated. The residue is chromatographed eluting with 40% EtOAc-hexanes to afford 3-ethylamino-4-nitro-pyridine-2-carbonitrile as a yellow solid. 1H NMR (300 MHz, CD3OD): δ 7.82 (d, J=4.5 Hz, 1H), 7.50 (d, J=4.5 Hz, 1H), 3.70 (q, J=7.2 Hz, 2H), 1.39 (t, J=7.2 Hz, 3H).

reactant | TMSCN | 8.33 mmol, 1.1 ml | [Si](C)(C)(C)C#N | C4H9NSi
reactant | dimethyl amino carbamoyl chloride | 0.76 mL | CN(NC(=O)Cl)C | C3H7ClN2O
reactant | 3-ethylamino-4-nitro-pyridine-1-oxide | 6.94 mmol, 1 g | C(C)NC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C7H9N3O3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-ethylamino-4-nitro-pyridine-2-carbonitrile | C(C)NC=1C(=NC=CC1[N+](=O)[O-])C#N | C8H8N4O2
